US05804601
Fuming nitric acid (81 ml) was ice-cooled and acetic anhydride (4.5 ml) was added dropwise. The mixture was cooled to -78° C. and a solution of ethyl 7-(2-naphthyl)heptanoate (10 g) in acetic anhydride (20 ml) was added. The temperature was then increased to -20° C. over a period of 2 hours, after which ethanol (10 ml) was added dropwise. The mixture was stirred for 30 minutes. Then, 2N aqueous sodium hydroxide solution (300 ml) was added under ice-cooling and the mixture was further stirred for 2 hours and, then, extracted with ether. The organic layer was washed with water, dried, and concentrated to dryness. The solid residue (11 g) was added to 5N aqueous sodium hydroxide solution (66 ml)-tetrahydrofuran (264 ml) and the mixture was refluxed for 6 hours. The reaction mixture was acidified with HCl and extracted with ethyl acetate. The organic layer was washed with water, dried, and concentrated to dryness and the residue was recrystallized from hexane-ethyl acetate to provide 7-(1-nitro-2-naphthyl)heptanoic acid (3.4 g).

reactant | nitric acid | 81 ml | [N+](=O)(O)[O-] | HNO3
reactant | ethyl 7-(2-naphthyl)heptanoate | 10 g | C1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)OCC | C19H24O2
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 2N, 300 ml | [OH-].[Na+]
solvent | acetic anhydride | 20 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic anhydride | 4.5 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 7-(1-nitro-2-naphthyl)heptanoic acid | 3.4 g | [N+](=O)([O-])C1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)O | C17H19NO4
